US04302607
a. 15-(dimethylphosphono)-pentadec-12-en-14-on-1-al
A solution of 5 g of potassium bicarbonate in 150 ml of water was added to a mixture of 8.22 g (30 mMole) of 1,3-bis(dimethylphosphono)propan-2-one and 5.94 g (30 mMole) of dodecan-1,12-dial in 150 ml of t-butanol. After 21/2 h stirring at 27° under nitrogen water was added and the mixture was extracted with ether. The organic layer was separated, washed with brine, dried over sodium sulphate and evaporated. The residue was chromatographed on 150 g of silica gel. Hexane-ethyl acetate 1:1 eluted 2.68 g of unreacted dodecan-1,12-dial and ether eluted 4.38 g (42%, resp. 76% when based on recovered dial) of the title compound as a viscous oil.

reactant | potassium bicarbonate | 5 g | C([O-])(O)=O.[K+]
reactant | 1,3-bis(dimethylphosphono)propan-2-one | 30 mMole, 8.22 g | COP(=O)(OC)CC(CP(=O)(OC)OC)=O | C7H16O7P2
reactant | dodecan-1,12-dial | 30 mMole, 5.94 g | C(CCCCCCCCCCC=O)=O | C12H22O2
solvent | water | 150 ml | O | H2O
solvent | t-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | 15-(dimethylphosphono)-pentadec-12-en-14-on-1-al | COP(=O)(OC)CC(C=CCCCCCCCCCCC=O)=O | C17H31O5P
